US07423030B2
28.3. 1-Chloro-4-cyclopropylmethyl-7-methoxyphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-cyclopropylmethyl-7-methoxy-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 4-cyclopropylmethyl-7-methoxy-2H-phthalazin-1-one | C1(CC1)CC1=NNC(C2=CC(=CC=C12)OC)=O | C13H14N2O2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-4-cyclopropylmethyl-7-methoxyphthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)CC1CC1 | C13H13ClN2O
